US06706709B2
A mixture of 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester (1 g, 5 mmol), 2-chloro-N,N-diethylacetamide (1 mL, 7.5 mmol) and cesium carbonate (5 g, 15 mmol) in dimethylformamide (10 mL) was stirred at room temperature for 6 hours. The reaction was diluted with ethyl acetate (160 mL), washed with water (5×50 mL) and brine, dried and concentrated. The residue was recrystallized from ethyl acetate and hexane to give 0.52 g of 5-diethylcarbamoylmethoxy-1H-indole-2-carboxylic acid ethyl ester as an off-white solid.

reactant | 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 5 mmol, 1 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)O | C11H11NO3
reactant | 2-chloro-N,N-diethylacetamide | 7.5 mmol, 1 mL | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | cesium carbonate | 15 mmol, 5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 160 mL | C(C)(=O)OCC | C4H8O2
product | 5-diethylcarbamoylmethoxy-1H-indole-2-carboxylic acid ethyl ester | 0.52 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC(N(CC)CC)=O | C17H22N2O4
